US08008303B2
3-Bromo-4-methoxy-N-(4-morpholin-4-yl-phenyl)-benzenesulfonamide
To stirred, cold (0 C) chlorosulfonic acid was added 1-bromo-2-methoxy-benzene (1 g) dropwise. The mixture was then allowed to warm to room temp and was stirred for 1 h. The mixture was then cooled again (0 C) and ice was added carefully until no further effervescence was seen. This was further diluted with water and extracted with DCM. The dried extracts were evaporated giving a pale yellow gum. This material was then dissolved in DCM (15 ml) and was treated with 4-morpholin-4-yl-phenylamine (1.43 g) and was stirred for 18 h. The mixture was then evaporated and the residue purified by chromatography. Gradient elution with DCM then DCM:EtOH:NH3; 800:8:1 and finally 400:8:1 gave an off-white solid (1.4 g).

reactant | chlorosulfonic acid | ClS(=O)(=O)O | ClHO3S
reactant | 1-bromo-2-methoxy-benzene | 1 g | BrC1=C(C=CC=C1)OC | C7H7BrO
reactant | 4-morpholin-4-yl-phenylamine | 1.43 g | N1(CCOCC1)C1=CC=C(C=C1)N | C10H14N2O
solvent | water | O | H2O
solvent | DCM | 15 ml | C(Cl)Cl | CH2Cl2
product | 3-Bromo-4-methoxy-N-(4-morpholin-4-yl-phenyl)-benzenesulfonamide | 1.4 g | BrC=1C=C(C=CC1OC)S(=O)(=O)NC1=CC=C(C=C1)N1CCOCC1 | C17H19BrN2O4S
